US04073917
1-Isobutoxy-2-(2'-diisopropylaminoethoxy)-benzene
The compound was prepared as described in Example 1, using sodium (3.45 g; 150 mmole), o-isobutoxyphenol (12.45 g; 75 mmole) and diisopropylaminoethylchloride hydrochloride (15.0 g; 75 mmole) in 200 ml of ethanol. Yield 11.2 g (51%) of product, boiling at 111°-113° C under a pressure of 0.001 mm.Hg, nD25 : 1.4920.

reactant | sodium | 150 mmole, 3.45 g | [Na] | Na
reactant | o-isobutoxyphenol | 75 mmole, 12.45 g | C(C(C)C)OC1=C(C=CC=C1)O | C10H14O2
reactant | diisopropylaminoethylchloride hydrochloride | 75 mmole, 15.0 g | Cl.C(C)(C)N(C(C)C)CCCl
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 1-Isobutoxy-2-(2'-diisopropylaminoethoxy)-benzene | C(C(C)C)OC1=C(C=CC=C1)OCCN(C(C)C)C(C)C | C18H31NO2
